US06953790B2
Step C. 2,3-Diamino-6-methoxypyridine
2-Amino-6-methoxy-3-nitropyridine (2.8 g, 16.5 mmol) was dissolved in warm 1:1 methanol/ethanol (200 mL). The solution was cooled, purged with argon, and 10% palladium on carbon was added (0.45 g). Hydrogen was introduced (1 atm) and the reaction stirred until complete. The catalyst was filtered and the solvent evaporated from the filtrate to give the title compound. MS 140 (M+1) 1H NMR (500 MHz, CDCl3) δ 6.93 (d, J=8 Hz, 1H), 6.04 (d, J=8 Hz, 1H), 4.15 (br s, 2H), 3.80 (s, 3H), 3.0 (br s, 2H).

reactant | 2-Amino-6-methoxy-3-nitropyridine | 16.5 mmol, 2.8 g | NC1=NC(=CC=C1[N+](=O)[O-])OC | C6H7N3O3
solvent | methanol ethanol | 200 mL | CO.C(C)O
product | 2,3-Diamino-6-methoxypyridine | NC1=NC(=CC=C1N)OC | C6H9N3O
